US04678501
5-(1-METHYLETHYL)-2-(2-PYRIDINYL)-1,3-CYCLOHEXANEDIONE
The subject compound was prepared from ethyl 3-(1-methylethyl)-6-(2-pyridinyl)-5-oxohexanoate and a sodium ethoxide solution according to the general procedure of Example 2, but employing a 2.83 hour reflux period following completion of the feed. On working up the reaction the ether-extracted aqueous phase was adjusted to pH 6 causing the product to separate as a tan solid which was extracted with ether, recovered by evaporation and recrystallized twice from cyclohexene to give a solid, mp 110°-112° C. The confirmatory elemental analysis is shown in Table II.

reactant | ethyl 3-(1-methylethyl)-6-(2-pyridinyl)-5-oxohexanoate | CC(C)C(CC(=O)OCC)CC(CC1=NC=CC=C1)=O | C16H23NO3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ether | CCOCC | C4H10O
product | 5-(1-METHYLETHYL)-2-(2-PYRIDINYL)-1,3-CYCLOHEXANEDIONE | CC(C)C1CC(C(C(C1)=O)C1=NC=CC=C1)=O | C14H17NO2
